US06326386B1
2-(5-Bromo-3-ethoxycarbonyl-phenoxy)-acetic acid
A solution of 2-(5-bromo-3-methoxycarbonyl-phenoxy)-acetic acid tert-butyl ester (12.8 g) in a mixture of dichloromethane (100 ml) and trifluoroacetic acid (100 ml) was stored at room temperature for 2 h. The solution was concentrated under reduced pressure. The residual solid was suspended in toluene and the solvent removed under reduced pressure to give the title compound as a brown solid (10.6 g).

reactant | 2-(5-bromo-3-methoxycarbonyl-phenoxy)-acetic acid tert-butyl ester | 12.8 g | C(C)(C)(C)OC(COC1=CC(=CC(=C1)Br)C(=O)OC)=O | C14H17BrO5
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(5-Bromo-3-ethoxycarbonyl-phenoxy)-acetic acid | 10.6 g | BrC=1C=C(C=C(OCC(=O)O)C1)C(=O)OCC | C11H11BrO5
